US04278748
4-(Benzotriazole-4-sulphonamidoethyl)phenylhydrazinehydrochloride
N-(4-Aminophenethyl)benzotriazole-4-sulphonamide (4.53 g, 14 mM) was dissolved in a minimum of boiling ethanol (100 ml). The solution was cooled to -5°, saturated with dry hydrogen chloride and, after further cooling to -10°, amyl nitrite (1.84 g, 16 mM, 2.11 ml) was added over 10 minutes. The mixture was then stirred for 2 hours at -10°. The very small quantity of solid which remained was removed from the reaction mixture by filtration and the filtrate was added, all at once, to a solution of anhydrous stannous chloride (8.13 g, 43 mM) in ethanolic hydrogen chloride (10 ml) at 0°. The reaction mixture was stirred at 0° for 1 hour, left at 5° overnight and then poured into ether (1 liter). The solid which precipitated was collected (4.1 g).

reactant | N-(4-Aminophenethyl)benzotriazole-4-sulphonamide | 14 mM, 4.53 g | NC1=CC=C(CCNS(=O)(=O)C2=CC=CC=3NN=NC32)C=C1 | C14H15N5O2S
reactant | hydrogen chloride | Cl | ClH
reactant | amyl nitrite | 16 mM, 2.11 ml, 1.84 g | N(=O)OCCCCC | C5H11NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(Benzotriazole-4-sulphonamidoethyl)phenylhydrazinehydrochloride | Cl.N1N=NC2=C1C=CC=C2S(=O)(=O)NCCC2=CC=C(C=C2)NN | InChI=1S/C14H16N6O2S.ClH/c15-17-11-6-4-10(5-7-11)8-9-16-23(21,22)13-3-1-2-12-14(13)19-20-18-12;/h1-7,16-17H,8-9,15H2,(H,18,19,20);1H
